US06117875
The mixture of 2-[3-(6-methoxy-2-naphthyl)phenylamino]-3-nitropyridine (5.2 g), N-bromosuccinimide (3.24 g) and benzoylperoxide (678 mg) in chloroform (30 ml) was refluxed for 3 hours. The mixture was concentrated in vacuo and was purified by column chromatography (silica gel) to obtain 2-[3-(5-bromo-6-methoxy-2-naphthyl)phenylamino]-3-nitropyridine (3.3 g).

reactant | 2-[3-(6-methoxy-2-naphthyl)phenylamino]-3-nitropyridine | 5.2 g | COC=1C=C2C=CC(=CC2=CC1)C=1C=C(C=CC1)NC1=NC=CC=C1[N+](=O)[O-] | C22H17N3O3
reactant | N-bromosuccinimide | 3.24 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoylperoxide | 678 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-[3-(5-bromo-6-methoxy-2-naphthyl)phenylamino]-3-nitropyridine | 3.3 g | BrC1=C2C=CC(=CC2=CC=C1OC)C=1C=C(C=CC1)NC1=NC=CC=C1[N+](=O)[O-] | C22H16BrN3O3
